US04923857
A solution of allyl 2-[(3S,4R)-4-[(1R)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl)-4-hydroxy-1-methyl-2- oxobutyl]-3-{(1R)-1-t-butyldimethylsilyloxyethyl}-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetate (2.36 g) in degassed toluene (120 ml) was heated to reflux for 8 hours. After cooling, the toluene was evaporated to give a residue of allyl (4S,5R,6S)-3-[2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl)-2-hydroxyethyl]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate and the residue was taken up into dichloromethane (90.0 ml). To the mixture were added dropwise triethylamine (1.02 ml) and methane sulfonyl chloride (0.52 ml) at 5° C. with stirring and the stirring was continued for 30 minutes at 5° C. To the resultant mixture was added 1,8-diazabicyclo-[5.4.0]-7-undecene (3.36 ml) and the resultant mixture was allowed to warm to around 40° C. After stirring at 40° C. for 2 hours, the mixture was diluted with ethyl acetate and washed in turn with aqueous ammonium chloride, water and brine, and dried over magnesium sulfate. Removal of the solvent gave a residue, which was chromatographed on silica gel (150 ml) eluting with a mixture of n-hexane and ethyl acetate (9:1-4:1 V/V) to give allyl (4S,5R,6S)-3-[(E)-2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-ethenyl]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]-hept-2-ene-2-carboxylate (1.12 g).

reactant | allyl 2-[(3S,4R)-4-[(1R)-4-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl)-4-hydroxy-1-methyl-2- oxobutyl]-3-{(1R)-1-t-butyldimethylsilyloxyethyl}-2-oxoazetidin-1-yl]-2-triphenylphosphoranylideneacetate | 2.36 g | C(C=C)OC(=O)N1[C@@H](CCC1)C(CC([C@H](C)[C@@H]1[C@H](C(N1C(C(=O)OCC=C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)O | C47H61N2O8PSi
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | allyl (4S,5R,6S)-3-[2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl)-2-hydroxyethyl]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | C(C=C)OC(=O)N1[C@@H](CCC1)C(CC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C)O | C29H46N2O7Si
